US06071903
Methyl 1-Acetyl-4-(4-hydroxybenzenesulfonyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylate
To a cooled (0°) solution of 2.0 g (4.78 mmol) of methyl 1-acetyl-4-(4-methoxybenzenesulfonyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylate in 14 ml of CH2Cl2 was added dropwise 143.3 ml (14.3 mmol) of a 1.0 molar solution of BBr3 in CH2Cl2The mixture was stirred at room temperature for 1.5 hours. Ice and H2O were added to the reaction mixture and the insolubles filtered off. The filtrate was diluted with CH2Cl2 and H2O and the CH2Cl2 layer separated, washed with brine and dried (Na2SO4) The solvent was removed under vacuum to give 1.5 g of a white foam. The solid was chromatographed on silica gel with hexane-ethyl acetate (1:1) as solvent to give a foam which was dried under vacuum to give 0.52 g of product as a white foam; Anal. Calc'd for C19H20N2O6S: C, 56 4:H, 5.0; N, 6.9 Found: C 55.1; H, 4.7: N, 6.5.

reactant | methyl 1-acetyl-4-(4-methoxybenzenesulfonyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylate | 4.78 mmol, 2.0 g | C(C)(=O)N1CC(N(CC2=C1C=CC=C2)S(=O)(=O)C2=CC=C(C=C2)OC)C(=O)OC | C20H22N2O6S
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | H2O | O | H2O
solvent | CH2Cl2 | 14 ml | C(Cl)Cl | CH2Cl2
product | Methyl 1-Acetyl-4-(4-hydroxybenzenesulfonyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylate | 1.5 g | C(C)(=O)N1CC(N(CC2=C1C=CC=C2)S(=O)(=O)C2=CC=C(C=C2)O)C(=O)OC | C19H20N2O6S
